US04868061
A solution of 0.06 mol of N-(allyloxycarbonyl)leucine, prepared as described by F. Guibe, O. Dangles, and G. Balavione in Tetrahedron Letters, 1986, 27, 2365-2368, and 0.066 mol of HCl in 100 mL of CH3OH is stirred at reflux for 8 hours. The solution is then cooled and treated with 0.066 mol of sodium bicarbonate. The solvent is removed by rotary evaporator, and the residue is dissolved in diethyl ether, filtered, dried over MgSO4, and filtered. The solvent is removed by rotary evaporator to give N-(allyloxycarbonyl)leucine methyl ester.

reactant | N-(allyloxycarbonyl)leucine | 0.06 mol | C(C=C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C10H17NO4
reactant | HCl | 0.066 mol | Cl | ClH
reactant | sodium bicarbonate | 0.066 mol | C([O-])(O)=O.[Na+]
solvent | CH3OH | 100 mL | CO | CH4O
product | N-(allyloxycarbonyl)leucine methyl ester | COC([C@@H](NC(=O)OCC=C)CC(C)C)=O | C11H19NO4
